US06858672B2
Aniline, a primary aromatic amine, is a hazardous carcinogenic liquid. It is difficult to handle aniline safely during reactive extrusion, which is the most economical way to produce imides on a large scale. Often maleic anhydride is reacted with aniline to obtain the N-phenylmaleimide monomer, which is then copolymerized with other monomers in solution or emulsion polymerization processes.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N-phenylmaleimide | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
